US04147780
14.4 parts of isobutyraldehyde was added to 36.6 parts of benzhydrylamine in 100 parts of dry benzene at room temperature with stirring. The cloudy mixture was heated to reflux with water-separation for 4 hours. On cooling the solution was filtered to remove a small amount of solid and evaporated to give isobutylidenebenzhydrylamine.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | benzhydrylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | isobutylidenebenzhydrylamine | C(C(C)C)=NC(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19N
